US09062028B2
Step A. (E)-Methyl 3-(3-chloro-2-methylphenyl)acrylate
A mixture of (2-methoxy-2-oxoethyl)triphenylphosphonium bromide (10.0 g, 24.08 mmol) in 100 mL DCM, 50 mL water and NaOH (10 N) (4.82 ml, 48.2 mmol) was vigorously shaken in a separatory funnel. The organic layer was separated and the aqueous phase was extracted with DCM. The combined organic layers were dried (MgSO4) and concentrated to give methyl 2-(triphenylphosphoranylidene)acetate (7.5 g, 93% yield) as a white solid. A solution of 3-chloro-2-methylbenzaldehyde (0.7 g, 4.53 mmol) and 2-(triphenylphosphoranylidene)acetate (1.817 g, 5.43 mmol) in MeOH (22.6 ml) was stirred at room temperature for 2 h. The mixture was concentrated and purified by flash chromatography (0-30% ethyl acetate:hexanes) to afford the title compound (0.23 g, 24% yield) as a clear colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.99 (d, J=15.9 Hz, 1H), 7.47-7.40 (m, 2H), 7.17-7.15 (m, 1H), 6.33 (d, J=15.9 Hz, 1H), 3.83 (s, 3H), 2.48 (s, 3H).

reactant | 3-chloro-2-methylbenzaldehyde | 4.53 mmol, 0.7 g | ClC=1C(=C(C=O)C=CC1)C | C8H7ClO
reactant | 2-(triphenylphosphoranylidene)acetate | 5.43 mmol, 1.817 g | C1(=CC=CC=C1)P(=CC(=O)[O-])(C1=CC=CC=C1)C1=CC=CC=C1
reactant | MeOH | 22.6 ml | CO | CH4O
product | (E)-Methyl 3-(3-chloro-2-methylphenyl)acrylate | 0.23 g, 24% yield | ClC=1C(=C(C=CC1)/C=C/C(=O)OC)C | C11H11ClO2
